US06835731B2
Preparation of Pyridine-2-sulfonic Acid 4-({(5,6,7,8-tetrahydro-quinolin-8-yl)-[1-(2-trime thylsilanyl-ethoxymethyl)-1 H-benzoimidazol-2-ylmethyl]-amino}-methyl)-benzylamide:
Using general procedure B: Reaction of pyridine-2-sulfonic acid 4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzylamide (AMD9426) (150 mg, 0.37 mmol), 1-(2-trimethylsilanyl-ethoxymethyl)-1 H-benzoimidazole-2-carbaldehyde (102 mg, 0.37 mmol), and NaBH(OAc)3 (233 mg, 1.10 mmol) for 1 h at room temperature followed by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH 198:1:1) gave the title compound (101 mg, 41%) as a yellow foam. 1H NMR (300 MHz, CD3OD) δ 0.00 (s, 9H), 0.75 (dd, 2H, J=8.1, 8.1 Hz), 1.58-1.75 (m, 2H), 2.22 (br s, 2H), 2.66-2.85 (m, 2H), 3.25 (dd, 2H, J=8.1, 8.1 Hz), 3.66 (d, 1H, J=14.1 Hz), 3.78 (d, 1H, J=14.1 Hz), 4.02 (d, 1H, J=6.0 Hz), 4.06-4.16 (m, 1H) 4.20 (brs, 2H), 4.81 (br s, 1H), 5.68 (d, 1H, J=12.0 Hz), 5.91 (d, 1H, J=12.0 Hz), 6.92 (d, 2H, J=7.8 Hz), 7.06 (dd, 1H, J=7.5, 4.8 Hz), 7.17-7.23 (m, 4H), 7.30-7.35 (m, 2H), 7.45 (ddd, 1H, J=7.5, 4.5, 1.1 Hz), 7.61-7.64 (m, 1H), 7.87 (ddd, 1H, J=7.8, 7.8,1.7 Hz), 7.98 (d, 1H, J=7.8 Hz), 8.55 (d, 1H, J=3.6 Hz), 8.68 (d, 1H, J=3.9 Hz).ES-MS m/z 669 (M+H).

reactant | pyridine-2-sulfonic acid 4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzylamide | 0.37 mmol, 150 mg | N1=CC=CC=2CCCC(C12)NCC1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C22H24N4O2S
reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1 H-benzoimidazole-2-carbaldehyde | 0.37 mmol, 102 mg | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=O)(C)C | C14H20N2O2Si
reactant | NaBH(OAc)3 | 1.10 mmol, 233 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | Pyridine-2-sulfonic Acid 4-({(5,6,7,8-tetrahydro-quinolin-8-yl)-[1-(2-trime thylsilanyl-ethoxymethyl)-1 H-benzoimidazol-2-ylmethyl]-amino}-methyl)-benzylamide | 101 mg, 41% | N1=CC=CC=2CCCC(C12)N(CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)CC2=CC=C(CNS(=O)(=O)C1=NC=CC=C1)C=C2 | C36H44N6O3SSi
